US05459152
Step 1. Preparation of 3-(Pyridin-3-yl)-7-[1-(4-nitrophenoxycarbonyl)-6-phenylmethoxyindol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole
To a solution of 3-(pyridin-3-yl)-7-(6-phenylmethoxyindol-3-yl)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole (200 mg, 0.443 mmol), prepared as in Example 4, in DMF (12 mL) was added NaH (60% oil dispersion, 19 mg, 0.465 mmol) and the reaction mixture was stirred for 7 min at ambient temperature. 4-nitrophenyl chloroformate (94 mg, 0.45 mmol) was added and the amber solution was stirred for two hours at ambient temperature. The reaction mixture was partitioned between H2O and ethyl acetate. The organic phase was dried over MgSO4, filtered,and concentrated. The title compound (98 mg), was purified by flash chromatography on silica gel (60 g, 1:1 ethyl acetate, hexanes).

reactant | 3-(pyridin-3-yl)-7-(6-phenylmethoxyindol-3-yl)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole | 0.443 mmol, 200 mg | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CNC1=CC(=CC=C21)OCC2=CC=CC=C2 | C27H21N3O2S
reactant | NaH | 0.465 mmol, 19 mg | [H-].[Na+]
reactant | 4-nitrophenyl chloroformate | 0.45 mmol, 94 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 3-(Pyridin-3-yl)-7-[1-(4-nitrophenoxycarbonyl)-6-phenylmethoxyindol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)OCC2=CC=CC=C2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C34H24N4O6S
